Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Giant hiatal hernia
 
Major Surgical or Invasive Procedure:
___ Lap hiatal herniorrhaphy/Toupet fundoplication

 
History of Present Illness:
Ms. ___ was evaluated as an outpatient for a large 
paraesophageal hernia. She
denies dysphagia, odynophagia, but has occassional GERD and 
belching. She has ongoing stomach pain that radiate to her back. 
She had pneumonia in ___ and continues to have dyspnea and 
productive cough. 

 
Past Medical History:
IDDM, hypothyroidism, hyperlipidemia, HTN, B TKR, hysterectomy, 
appendectomy, cholecystectomy

 
Social History:
___
Family History:
NC
 
Physical Exam:
At time of discharge:
98.9 83  161/75  17  99RA
NAD/AAO 
RRR
CTA b/l
SNDNT with incisions c/d/i
no peripheral edema

 
Pertinent Results:
___ 03:12PM BLOOD WBC-22.3*# RBC-3.65* Hgb-11.0* Hct-33.4* 
MCV-92 MCH-30.2 MCHC-33.0 RDW-14.1 Plt ___
___ 07:25AM BLOOD Glucose-109* UreaN-19 Creat-1.1 Na-143 
K-4.6 Cl-105 HCO3-32 AnGap-11
___ 03:12PM BLOOD Glucose-336* UreaN-22* Creat-1.4* Na-141 
K-4.7 Cl-102 HCO3-22 AnGap-22*
 
Brief Hospital Course:
The patient was admitted to the Thoracic surgery service and to 
a floor bed following surgery.  Please see operative report for 
full details.  She remained hemodynamically stable throughout 
her stay.  An NGT was kept in place overnight which was removed 
on POD#1.  She underwent a barium swallow study on POD#1 which 
demonstrated no extravasation of contrast and good position of 
the stomach and wrap with free flow of contrast through the 
small intestines.  Afterwards she was placed to a clear liquid 
diet and advanced to fulls.  Her pain was initially controlled 
with a dilaudid pca and she was switched to the Roxicet when 
taking POs.  She ambulated in the halls and was discharged to 
home.
 
Medications on Admission:
1. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
shortness of breath or wheezing.  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Ventolin HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: ___ 
puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
5. insulin glargine 100 unit/mL (3 mL) Insulin Pen Sig: Fifty 
Two (52) units Subcutaneous at bedtime.  
6. metformin 850 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
7. Crestor 10 mg Tablet Sig: One (1) Tablet PO once a day.  
8. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
9. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
10. levothyroxine 50 mcg Capsule Sig: One (1) Capsule PO once a 
day.  
11. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
12. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  

 
Discharge Medications:
1. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every ___ hours.
Disp:*6 Tablet, Rapid Dissolve(s)* Refills:*2*
2. docusate sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day) as needed for constipation: Take as needed with 
narcotic pain medications.
Disp:*30 * Refills:*0*
3. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
shortness of breath or wheezing.  
5. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. oxycodone-acetaminophen ___ mg/5 mL Solution Sig: ___ mL 
PO Q4H (every 4 hours) as needed for pain.
Disp:*250 mL* Refills:*0*
7. Ventolin HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: ___ 
puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
8. insulin glargine 100 unit/mL (3 mL) Insulin Pen Sig: Fifty 
Two (52) units Subcutaneous at bedtime.  
9. metformin 850 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
10. Crestor 10 mg Tablet Sig: One (1) Tablet PO once a day.  
11. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
12. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
13. levothyroxine 50 mcg Capsule Sig: One (1) Capsule PO once a 
day.  
14. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
15. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Giant paraesophageal hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath or chest pain
-Nausea (take anti-nausea medication) or vomiting.  
-Increased abdominal pain

Activity
-Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
-No tub bathing, swimming or hot tubs until healed
-No driving while taking narcotics
-Walk ___  times a day for ___ minutes increase to a Goal of 30 
minutes daily
 
Followup Instructions:
___